US04777179
5-[4-[(3-Hydroxymethyl-1-methyl-1H-1,2,4-triazol-5-yl)amino]butyl]-3-methyl-2-thiophenecarboxaldehyde
A mixture of 4-[5-(1,3-dioxolan-2-yl)-4-methyl-2-thienyl]-butanamine (2.73 g) and methyl N-[2-(acetoxy)acetyl]-1-methyl-2-(phenylmethylene)-hydrazinecarboximidothioate (3.38 g) was heated to 60° for 2 h. Toluene (20 ml) and 5N hydrochloric acid (12 ml) were added and the mixture stirred at room temperature for 18 h. The mixture was basified to pH 8, washed with toluene, basified to pH 10 and extracted with ethyl acetate. The extract was evaporated to give an oil which was purified by column chromatography on silica using 3:1 ethyl acetate:methanol as eluent to give the title compound as a pale yellow solid (0.6 g) m.p. 118°-121° (softens).

reactant | 4-[5-(1,3-dioxolan-2-yl)-4-methyl-2-thienyl]-butanamine | 2.73 g | O1C(OCC1)C1=C(C=C(S1)CCCCN)C | C12H19NO2S
reactant | methyl N-[2-(acetoxy)acetyl]-1-methyl-2-(phenylmethylene)-hydrazinecarboximidothioate | 3.38 g | C(C)(=O)OCC(=O)N=C(SC)N(N=CC1=CC=CC=C1)C | C14H17N3O3S
reactant | hydrochloric acid | 5N, 12 ml | Cl | ClH
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[4-[(3-Hydroxymethyl-1-methyl-1H-1,2,4-triazol-5-yl)amino]butyl]-3-methyl-2-thiophenecarboxaldehyde | 0.6 g | OCC1=NN(C(=N1)NCCCCC1=CC(=C(S1)C=O)C)C | C14H20N4O2S
